US04591587
(a) 3-Hydroxy-6-nitro-1(3H)-isobenzofuranone (3a)
A mixture of 6-nitro-1(3H)-isobenzofuranone (8.99 g, 50.0 mmol) and N-bromosuccinimide (8.9 g, 50.0 mmol) in carbon tetrachloride (135 mL) was stirred and heated under reflux for one hour during which time the reaction mixture was exposed to the light from a 275 Watt, 125 Volt Hanovia sunlamp that was situated 8 inches from the flask. After cooling, the succinimide was removed by filtration, and the filtrate was evaporated in vacuo. The oily residue was mixed with water (200 mL), and the mixture was refluxed for one hour to give a clear, colorless solution. On cooling, the Compound 3a crystallized from solution. An analytical sample was prepared by recrystallization from water; m.p. 157°-160° C.; IR 3390 cm-1 (OH), 1770 cm-1 (C=O), 1H NMR (CDCl3 -Me2SO-d6 -D2O) δ6.78 (s, br, 1H, H3), 7.88 (d, 1H, H4, J4,5 =9 Hz), 8.56 (d, 1H, H5, J=9 Hz), 8.62 (s, 1H, H6).

reactant | 6-nitro-1(3H)-isobenzofuranone | 50.0 mmol, 8.99 g | [N+](=O)([O-])C1=CC=C2COC(C2=C1)=O | C8H5NO4
reactant | N-bromosuccinimide | 50.0 mmol, 8.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 135 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Hydroxy-6-nitro-1(3H)-isobenzofuranone | OC1OC(C2=CC(=CC=C12)[N+](=O)[O-])=O | C8H5NO5
